US05834506
3-(4-Hydroxy-phenyl)-1-phenyl-propan-1-one
The title compound was prepared as described in General Method 3 from 3-(4-hydroxy-phenyl)-1-phenyl-prop-2-en-1-one (25.5 g, 113.6 mmol), 5% Pd on BaSO4 (1.0 g), and THF (400 mL). The catalyst was filtered, and the filtrate was concentrated . The residue was recrystallized from 50% EtOH, to give the title compound, m.p. 118°-119° C.

reactant | 3-(4-hydroxy-phenyl)-1-phenyl-prop-2-en-1-one | 113.6 mmol, 25.5 g | OC1=CC=C(C=C1)C=CC(=O)C1=CC=CC=C1 | C15H12O2
catalyst | Pd | [Pd] | Pd
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 3-(4-Hydroxy-phenyl)-1-phenyl-propan-1-one | OC1=CC=C(C=C1)CCC(=O)C1=CC=CC=C1 | C15H14O2
